2177-10-17 08:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2177-10-16**] 09:56 PM
   Allergies:
   Ampicillin
   Diarrhea;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; severe
   Tegaderm (Topical) (Transparent Dressing)
   Rash;
   Tincture Of Benzoin (Topical) (Benzoin)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2177-10-17**] 01:00 AM
   Metronidazole - [**2177-10-17**] 07:15 AM
   Infusions:
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2177-10-16**] 10:45 PM
   Heparin Sodium (Prophylaxis) - [**2177-10-17**] 07:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-17**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 89 (82 - 108) bpm
   BP: 168/62(86) {121/54(75) - 181/87(98)} mmHg
   RR: 24 (22 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,184 mL
                                                                  1,618 mL
   PO:
             TF:
   IVF:
                                                                  2,184 mL
                                                                  1,618 mL
   Blood products:
   Total out:
                                                                    120 mL
                                                                    430 mL
   Urine:
                                                                    120 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,064 mL
                                                                  1,188 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 550) mL
   Vt (Spontaneous): 360 (360 - 360) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   SpO2: 93%
   ABG: 7.39/44/80.[**Numeric Identifier 176**]/29/0
   Ve: 11 L/min
   PaO2 / FiO2: 200
   Physical Examination
   GENERAL: Obese female sedated on propofol, not responding to stimuli or
   commands
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear. Poor dentition. Neck Supple, No
   LAD, No thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**]. JVP=  difficult to assess due to body habitus
   LUNGS: diffusely rhonchorus, poor air movement biaterally.
   ABDOMEN: NABS. Obese Soft, NT, ND. Midline, epigastric scar. No HSM
   EXTREMITIES: Cool extremities distally, with 2+ palpable radial and DP
   pulses  No edema or calf pain.  Dressing on RLE.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Intubated and sedated, not responding to commands.
   Labs / Radiology
   161 K/uL
   13.0 g/dL
   254 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.9 mEq/L
   17 mg/dL
   102 mEq/L
   138 mEq/L
   40.4 %
   13.1 K/uL
        [image002.jpg]
                             [**2177-10-16**]  10:16 PM
                             [**2177-10-17**]  12:51 AM
                             [**2177-10-17**]  02:24 AM
   WBC
   13.1
   Hct
   40.4
   Plt
   161
   Cr
   0.9
   TCO2
   29
   28
   Glucose
   254
   Other labs: ALT / AST:17/25, Alk Phos / T Bili:59/0.5, Lactic Acid:1.2
   mmol/L, Albumin:3.3 g/dL, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   ASSESSMENT AND PLAN:
   63 yo female with a past medical history sig for DM II, HTN, OSA, and
   multiple allergies transfered to the [**Hospital Unit Name 1**] for respiratory failure,
   presumed aspiration, and a likely pneumonia.
   #.  Hypoxemic respiratory failure - ABG showed 7.25/63/221 with a
   bicarb of 29.  Based on these values she has a Mixed acid base primary
   respiratory acidosis with a metabolic alkalosis. She is treated with
   furosemide, and likely has a chronic metabolic alkalosis because of
   it.  The patient presented to clinic with hypoglycemia and shortness of
   breath.  Underlying etilogies include infectious processes such as
   bacterial and viral pneumonia.
   - On AC 500/20/5/50%
   - Follow oxygenation with serial ABGs
   - Continue to wean FiO2 as tolerated
   - Consider ARDSnet ventilation protocol at 6cc/kg ideal body weight due
   to Pao2/Fio2 of 200 and new bilateral infiltrates
   .
   #.  Pneumonia - likely etiologies include aspiration, CAP, flu, and
   other viral etiologies.  Aspiration is possible due to the patient's
   severe gastroparesis with achlasia.  Due to the density of the
   consolidation on imaging, CAP cannot be ruled out, as well as
   superimposed viral infection.  It is difficult to differentiate whether
   the leukocytosis is due to an infectious process or steroid therapy
   that she received while in the ED.
   - Start treatment with Levofloxacin and Flagyl for coverage of
   suspected pathogens based on etiologies described above - monitor for
   improvement, and we will readdress coverage as her clinical picture
   dictates
   - Follow-up labs, monitor vital signs for increased leukocytosis and
   fever
   #.  Hypoglycemia/DM II - possible etiologies include an underlying
   infectious process vs pump malfunction
   - Stop insulin pump
   - Use SSI for glucose control
   - Finger sticks qid for glucose control
   .
   #.  HTN - stable
   - Hold medications for now due to frequent episodes of emesis and
   concern for sepsis
   - Monitor pressures, and give IV labetalol or hydralazine if needed
   while patient continues to have emesis
   .
   FEN: replete lytes as necessary, no nutrition for now due to continued
   emesis
   .
   PPX:
   -DVT ppx with  heparin
   -Bowel regimen
   .
   ACCESS: PIV's
   .
   CODE STATUS: full  (presumed)
   .
   EMERGENCY CONTACT: [**Name (NI) **] [**Name (NI) 11256**] (HCP - number on the chart)
   .
   DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: heparin
   Stress ulcer: ppi
   VAP:  per protocol
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: icu for now

2177-10-17 10:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Sedated with propofol.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated, Encephalopathy, ETT
   Allergies:
   Ampicillin
   Diarrhea;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; severe
   Tegaderm (Topical) (Transparent Dressing)
   Rash;
   Tincture Of Benzoin (Topical) (Benzoin)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2177-10-17**] 01:00 AM
   Metronidazole - [**2177-10-17**] 07:15 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2177-10-16**] 10:45 PM
   Heparin Sodium (Prophylaxis) - [**2177-10-17**] 07:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2177-10-17**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 90 (82 - 108) bpm
   BP: 152/63(83) {121/54(75) - 181/87(98)} mmHg
   RR: 25 (22 - 28) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 115 kg
             Total In:
                                                                  2,184 mL
                                                                  1,810 mL
   PO:
             TF:
   IVF:
                                                                  2,184 mL
                                                                  1,810 mL
   Blood products:
   Total out:
                                                                    120 mL
                                                                    490 mL
   Urine:
                                                                    120 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,064 mL
                                                                  1,320 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 550) mL
   Vt (Spontaneous): 360 (360 - 360) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   SpO2: 91%
   ABG: 7.39/44/80.[**Numeric Identifier 176**]/29/0
   Ve: 11 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   13.0 g/dL
   161 K/uL
   254 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.9 mEq/L
   17 mg/dL
   102 mEq/L
   138 mEq/L
   40.4 %
   13.1 K/uL
        [image002.jpg]
                             [**2177-10-16**]  10:16 PM
                             [**2177-10-17**]  12:51 AM
                             [**2177-10-17**]  02:24 AM
   WBC
   13.1
   Hct
   40.4
   Plt
   161
   Cr
   0.9
   TCO2
   29
   28
   Glucose
   254
   Other labs: ALT / AST:17/25, Alk Phos / T Bili:59/0.5, Lactic Acid:1.2
   mmol/L, Albumin:3.3 g/dL, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   63 yof IDDM (insulin pump) now with pneumonia complicated by
   respiratory failure
   RESPIRATORY FAILURE -- attributed predominately to multilobar
   infiltrates, concern for pneumonia.  Observed aspiration, perhaps on
   background of community acquired pneumonia.  At risk for ARDS.
   Continue mechanical ventilation, AC mode, lung protective strategy,
   monitor ABG, SaO2.
   HYPOXEMIA -- attributed to multilobar infiltrates, consolidation.
   Doubt pulmonary embolism.  Monitor SaO2, maintain >90%, pO2 > 60 mmHg.
   PULMONARY INFILTRATES -- dense multilobar consolidation with air
   bronchograms left lung, few scattered infiltrates in right lung.
   Suspect bacterial pneumonia, but need to consider influenza.  Continue
   empirical antimicrobials in insulin-injecting diabetic patient
   (Ceftriaxone, Levofloxicin, Vanco), and assess for influenza (maintain
   droplet precautions).
   GASTRIC HERNIA
 possibly related to gastric banding.  General Surgery
   to evaluate.
   "ALLERGIC REACTION" -- dyspnea and wheeze, suspect manifestation of
   pneumonia, rather than allergic reaction
   HYPOGLYCEMIA -- suspect related to sepsis, and possibly contribution of
   continued insulin use in context of reduced PO intake.
   RENAL INSUFFICIENCY -- improved with hydration.  Attributed to prerenal
   state.
   ASPIRATION -- gastric hernia, suspect underlying gastroparesis
   attributed to diabetes.  OG tube to suction.  Check KUB.
   DIABETES MELLITUS -- off insulin pump.  Resume insulin sc.  Monitor
   glucose, maintain <150.
   NUTRITIONAL SUPPORT -- initiate TF.
   FOOT INFECTION -- wound care nurse evaluation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2177-10-17**] 08:07 AM
   20 Gauge - [**2177-10-17**] 08:50 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2177-10-18 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   MICU RESIDENT HISTORY AND PHYSICAL
   .
   CHIEF COMPLAINT: Shortness of breath, hypoglycemia
   .
   HISTORY OF PRESENT ILLNESS:  The patient is a 63 year old female with a
   past medical history of type II diabetes on an insulin pump complicated
   by gastroparesis, OSA, HTN, s/p gastric banding and several food and
   drug allergies that presented to clinic with hypoglycemia and shortness
   of breath.  Dr. [**Last Name (STitle) 11255**] brought the patient to the ED, where she was
   given salumedrol, epinephrine, benadryl, and pepcid for suspected
   allergic reaction.  The patient was in respiratory distress and began
   having altered mental status.  Her respiratory effort increased and she
   was noted to have an O2 sat of 79%.  She was placed on 100% NRB and
   sats improved to 95%.  She continued to have increased work of
   breathing and worsening respiratory distress. She was placed on NIV and
   shortly after she began vomiting with suspicion for aspiration.
   Anesthesia was called and the patient was intubated for protection of
   her airway.
   .
   Review of systems were not obtained due to the patient's sedation.
   .
   .
   PAST MEDICAL HISTORY:
   . DMII
   . HTN
   . CHF
   . Depression
   . OSA
   . Gastric Banding
   . Allergy
   MEDICATIONS:
   . [**Doctor First Name **] 60mg [**Hospital1 7**]
   . Aspirin 81mg QD
   . Calcium 500mg
   . Celebrex 200mg QD
   . Clonazepam 0.5mg [**Hospital1 7**]
   . Cymbalta 60mg
   . Diovan 80mg [**Hospital1 7**]
   . Furosemide 20mg [**Hospital1 7**]
   . Metamucil
   . Metoprolol 50mg QHS
   . MVI
   . Niaspan 500mg
   . Novolog 100units
   . Omega-3 Fatty Acid
   . Oxybutynin Chloride 10mg QD
   . Prilosec 20mg QD
   . Simvastatin 10mg QHS
   . Spirinolactone 50mg QD
   . Trazodone 50mg QHS
   . Trilipix 135mg QD
   . Vitamin B-12
   . Vitamin C
   . Vitamin E
   . Zantac 300mg QHS
   ALLERGIES:
   . Ampicillin
   . Compazine
   . Tincture of Benzoin
   . Tegaderm
   . Peanuts
   SOCIAL HISTORY:
   .  Unable to obtain
   .
   FAMILY HISTORY:
   .  Unable to obtain
   .
   VITAL SIGNS:
   T=... BP=... HR=... RR=... O2=
   .
   .
   PHYSICAL EXAM
   GENERAL: Obese female sedated on propofol, not responding to stimuli or
   commands
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear. Poor dentition. Neck Supple, No
   LAD, No thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**]. JVP=  difficult to assess due to body habitus
   LUNGS: diffusely rhonchorus, poor air movement biaterally.
   ABDOMEN: NABS. Obese Soft, NT, ND. Midline, epigastric scar. No HSM
   EXTREMITIES: Cool extremities distally, with 2+ palpable radial and DP
   pulses  No edema or calf pain.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Intubated and sedated, not responding to commands.
   .
   .
   LABS: (see below)
   .  WBC: 14.8
   .  ABG: 7.25/63/221
   STUDIES:
   .  CT chest showed bilateral infiltrates/consolidations concerning for
   aspiration or an infectious process.  Large hiatal hernia with
   elevation of the left hemidiaphragm.2200 went back to OR had lap band
   removed, poor UOP t/o, only made 55cc over 4h, was hypotensive in OR,
   in ICU SBPs in 90s.
   Got 500cc NS over 10min and decreased propofol--> SBPs in 110s
   Allergies:
   Ampicillin
   Diarrhea;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; severe
   Tegaderm (Topical) (Transparent Dressing)
   Rash;
   Tincture Of Benzoin (Topical) (Benzoin)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2177-10-17**] 01:00 PM
   Vancomycin - [**2177-10-17**] 11:05 PM
   Metronidazole - [**2177-10-18**] 12:09 AM
   Levofloxacin - [**2177-10-18**] 01:01 AM
   Infusions:
   Insulin - Regular - 7 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2177-10-17**] 10:50 AM
   Heparin Sodium (Prophylaxis) - [**2177-10-17**] 11:05 PM
   Fentanyl - [**2177-10-18**] 07:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-18**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.7
C (99.9
   HR: 98 (83 - 101) bpm
   BP: 107/55(72) {75/39(51) - 107/55(72)} mmHg
   RR: 18 (15 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 115 kg
   Height: 67 Inch
    CVP: 17 (11 - 17)mmHg
   Total In:
                                                                  7,501 mL
                                                                  3,910 mL
   PO:
   TF:
   IVF:
                                                                  7,501 mL
                                                                  3,910 mL
   Blood products:
   Total out:
                                                                  1,005 mL
                                                                    305 mL
   Urine:
                                                                    905 mL
                                                                    305 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  6,496 mL
                                                                  3,605 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 259 (259 - 259) mL
   RR (Set): 26
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 65
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.35/48/120/28/0
   Ve: 9.3 L/min
   PaO2 / FiO2: 200
   Physical Examination
   GENERAL: Obese female sedated on propofol, not responding to stimuli or
   commands
   HEENT: No scleral icterus.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**]. JVP difficult to assess due to body habitus
   LUNGS: Diffusely rhonchorus, poor air movement biaterally.
   ABDOMEN: NABS. Obese Soft, NT, ND. Midline, epigastric scar.
   EXTREMITIES: Cool feet distally, but warmer than on admission, with 2+
   palpable radial, DP, and PT pulses  No edema.  Dressing on right foot
   (This has not been uncovered for examination yet).
   NEURO: Intubated and sedated, not responding to commands.
   Labs / Radiology
   134 K/uL
   9.8 g/dL
   240 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.5 mEq/L
   22 mg/dL
   108 mEq/L
   141 mEq/L
   31
   9.6 K/uL
        [image002.jpg]
                             [**2177-10-16**]  10:16 PM
                             [**2177-10-17**]  12:51 AM
                             [**2177-10-17**]  02:24 AM
                             [**2177-10-17**]  05:19 PM
                             [**2177-10-17**]  07:31 PM
                             [**2177-10-17**]  08:06 PM
                             [**2177-10-18**]  01:33 AM
                             [**2177-10-18**]  01:36 AM
   WBC
   13.1
   9.6
   Hct
   40.4
   36
   31.2
   31
   Plt
   161
   134
   Cr
   0.9
   1.1
   TCO2
   29
   28
   31
   31
   30
   28
   Glucose
   [**Telephone/Fax (3) 11292**]
   Other labs: ALT / AST:17/25, Alk Phos / T Bili:59/0.5,
   Differential-Neuts:86.7 %, Lymph:9.7 %, Mono:3.1 %, Eos:0.4 %, Lactic
   Acid:2.1 mmol/L, Albumin:3.3 g/dL, Ca++:7.4 mg/dL, Mg++:2.4 mg/dL,
   PO4:1.7 mg/dL
   Assessment and Plan
   63 yo female with a past medical history sig for DM II, HTN, OSA, and
   multiple allergies transfered to the [**Hospital Unit Name 1**] for respiratory failure,
   presumed aspiration, and a likely pneumonia.
   #.  Respiratory failure - Underlying etilogies include infectious
   processes such as bacterial and viral pneumonia.
   - Change tidal volume to 6 cc/mg per ARDSnet protocol.  Recheck ABGs.
   - Wean FiO2 as tolerated
   .
   #.  Pneumonia - Likely etiologies include aspiration pneumonitis, CAP,
   flu, and other viral etiologies.  Aspiration pneumonitis is possible
   due to the patient's severe gastroparesis.  It is difficult to
   differentiate whether the leukocytosis is due to an infectious process
   or steroid therapy that she received while in the ED.
   - Continue Levofloxacin and Flagyl.  Will add ceftriaxone for
   additional coverage.
   - Increase levofloxacin to 750 mg daily
   - Follow-up labs, monitor vital signs for increased leukocytosis and
   fever
   - Check urine Legionella
   #.  Hypoglycemia/DM II - possible etiologies of hypoglycemia include
   poor PO in setting of an underlying infectious process vs pump
   malfunction
   - QID fingersticks
   - sliding scale insulin for glucose control
   - start glargine at 20 units daily
   .
   #.  HTN
 Patient currently hypertensive.
   - Holding antihypertensives (oral medicines) for now due to frequent
   episodes of emesis
   - Monitor pressures, and give IV labetalol or hydralazine if needed
   while patient continues to have emesis
   .
   #. Vomiting
 Likely [**1-13**] known gastric motility disorder.  DDx includes
   SBO.
   -OGT to suction
   -KUB to evaluate for obstruction
   -Empiric trial of Reglan pending results of KUB.
   .
   #. Right foot cast/dressing
 Unclear what this is from.
   -Consult wound care nurse to look at foot.  This is a possible source
   of infection.
   ICU Care
   Nutrition: No enteral nutrition for now given continued emesis.
   Replete lytes PRN
   Glycemic Control: Insulin glargine plus humalog sliding scale as above
   Lines: 18 Gauge - [**2177-10-17**] 08:07 AM
   Arterial Line - [**2177-10-17**] 09:48 PM
   20 Gauge - [**2177-10-17**] 10:11 PM
   Multi Lumen - [**2177-10-18**] 02:18 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: PPI
   VAP:  per protocol
   Comments:
   Communication:  Comments: [**Name (NI) **] [**Name (NI) 11256**] (HCP - number on the chart)
   Code status: FULL
   Disposition: ICU for now

2177-10-19 01:15:00 Physician Resident Progress Note
Chief Complaint: ACCEPT NOTE  -  [**Hospital Unit Name 1**] to MICU Green transfer
   63yo F, DMII, HTN, gastroparesis admitted with CAP vs Aspiration PNA vs
   both.  As it was thought that her gastric band may have been
   contributing to her gastroparesis, this was removed yesterday.
   Immediately post-op, she was hypotensive but responsive to fluids and
   not requiring pressors. Today, she had two foreign bodies removed from
   her airways (attributed to food aspiration).  She has been treated for
   CAP/aspiration with vanco, CTX, levo, and flagyl.  Currently on ARDS
   net volumes.
   Please see prior MICU notes for full history and hospital course.
   24 Hour Events:
 URINE CULTURE - At [**2177-10-17**] 01:44 PM
 OR SENT - At [**2177-10-17**] 07:27 PM
 OR RECEIVED - At [**2177-10-17**] 09:45 PM
 ARTERIAL LINE - START [**2177-10-17**] 09:48 PM
 MULTI LUMEN - START [**2177-10-18**] 02:18 AM
 FEVER - 101.4
F - [**2177-10-17**] 01:00 PM
   History obtained from Medical records
   Allergies:
   History obtained from Medical recordsAmpicillin
   Diarrhea;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; severe
   Tegaderm (Topical) (Transparent Dressing)
   Rash;
   Tincture Of Benzoin (Topical) (Benzoin)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2177-10-18**] 01:01 AM
   Ceftriaxone - [**2177-10-18**] 02:42 PM
   Metronidazole - [**2177-10-18**] 05:21 PM
   Vancomycin - [**2177-10-18**] 09:00 PM
   Infusions:
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2177-10-18**] 12:16 PM
   Fentanyl - [**2177-10-18**] 02:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-19**] 01:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.2
C (99
   HR: 100 (85 - 115) bpm
   BP: 126/56(76) {75/39(51) - 157/70(97)} mmHg
   RR: 24 (0 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 115 kg
   Height: 67 Inch
    CVP: 17 (11 - 19)mmHg
   Total In:
                                                                  7,501 mL
                                                                  6,489 mL
   PO:
   TF:
   IVF:
                                                                  7,501 mL
                                                                  6,489 mL
   Blood products:
   Total out:
                                                                  1,005 mL
                                                                  1,955 mL
   Urine:
                                                                    905 mL
                                                                  1,955 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  6,496 mL
                                                                  4,534 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 6,000 (259 - 6,000) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 65
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.40/45/112/28/2
   Ve: 7.9 L/min
   PaO2 / FiO2: 224
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL, Cervical adenopathy
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   134 K/uL
   9.8 g/dL
   240 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.5 mEq/L
   22 mg/dL
   108 mEq/L
   141 mEq/L
   30.9 %
   9.6 K/uL
        [image002.jpg]
                             [**2177-10-16**]  10:16 PM
                             [**2177-10-17**]  12:51 AM
                             [**2177-10-17**]  02:24 AM
                             [**2177-10-17**]  05:19 PM
                             [**2177-10-17**]  07:31 PM
                             [**2177-10-17**]  08:06 PM
                             [**2177-10-18**]  01:33 AM
                             [**2177-10-18**]  01:36 AM
                             [**2177-10-18**]  08:23 AM
                             [**2177-10-18**]  10:36 AM
   WBC
   13.1
   9.6
   Hct
   40.4
   36
   31.2
   31
   30.9
   Plt
   161
   134
   Cr
   0.9
   1.1
   TCO2
   29
   28
   31
   31
   30
   28
   29
   Glucose
   [**Telephone/Fax (3) 11292**]
   Other labs: PT / PTT / INR:16.0/31.4/1.4, ALT / AST:17/25, Alk Phos / T
   Bili:59/0.5, Differential-Neuts:86.7 %, Lymph:9.7 %, Mono:3.1 %,
   Eos:0.4 %, Lactic Acid:1.4 mmol/L, Albumin:3.3 g/dL, Ca++:7.4 mg/dL,
   Mg++:2.4 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 OLIGURIA/ANURIA
 HYPOGLYCEMIA
 HYPOXEMIA
   63yo F with DMII, HTN, OSA initially referred to the ED with whezzing,
   hypoxemia subsequently aspirated while on NIPPV requiring intubation
   for hypoxemia/hypercarbia. S/p removal of gastric band yesterday and
   s/p rigid bronchoscopy with removal of foreign body in Left lung today.
   # Resp Failure / PNA/ Aspiration PNA: Pt's initial presentation was
   suspicious for CAP, subsequently she aspirated while on NIPPV.  As
   such, she has been treated with VANCO/ CTX /Flagyl and levofloxacin to
   cover severe CAP (including MRSA and atypicals) and aspiration.  Her
   leukocytosis has improved on this regimen (today was day 2). She is
   currently on ARDS net volumes. Today, immediately after transfer, she
   underwent rigid bronchoscopy with removal foreign bodies from the LLL
   lobe (large object) and RLL (small object). Assays egative for flu,
   respiratory virsuses, and legionella.
   --Continue AC, titrate settings to ABG
   --Consider PSV in AM with possible SBT
   --Continue broad covg for sever CAP, atypicals, and anaerobes (d2)
   --Serial CXRs
   # DMII / Labile BS: Pt initially hypoglycemic, then requiring insulin
   drip at 7mg/hr. Outpt she is managed with LANTUS and humalog SSI.
   --Resume lantus with SS humalog. If fails, will revert to insulin drip
   # Emesis/ gastroparesis: Presumably secondary to DMII. S/p recent
   removal of lap-band.
   --NPO, NGT to suction
   --Need to notify surgical c/s that she is now west, would appreciate
   their continued input
   # Hypertension: Currently normotensive off meds, will continue to
   monitor
   # CHF: Documented Hx. Most recent echo in [**2171**] with preserved EF. Home
   diuretics have been held. LOS in [**Name (NI) 1**], pt is 13L positive. Will resume
   diuresis in am if BP tolerates.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2177-10-17**] 08:07 AM
   Arterial Line - [**2177-10-17**] 09:48 PM
   20 Gauge - [**2177-10-17**] 10:11 PM
   Multi Lumen - [**2177-10-18**] 02:18 AM
   Prophylaxis:
   DVT: sqh
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: icu
   ------ Protected Section ------
   Addendum post-rounds: Plan to diurese 1-2L/ day with lasix 40 IV bid;
   will convert to drip if UOP falls short of goal. [**Hospital1 7**] lytes. Once
   afebrile, would consider initiating TPN. Increasing lantus to 60mg
   daily + humalog SS. It seems that her home pump requirement is ~100 U.
   ------ Protected Section Addendum Entered By:[**Name (NI) 11340**] [**Name8 (MD) 9558**], MD
   on:[**2177-10-19**] 13:25 ------

2177-10-19 08:12:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, aspiration PNA, s/p gastric band
   removal, intubated
   HPI: 63F (h/o gastric banding, gastroparesis) s/p intubation, gastric
   band removal Fri now transferred to MICU green yesterday for rigid
   bronch.
   24 Hour Events:
 BRONCHOSCOPY - At [**2177-10-18**] 12:40 PM
   given 200 mcg fentanyl, 4 versed pt on 2mg versed gtt. Rigid bronch by
   IP removed peanuts.
 BLOOD CULTURED - At [**2177-10-18**] 12:42 PM
   Allergies:
   Ampicillin
   Diarrhea;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; severe
   Tegaderm (Topical) (Transparent Dressing)
   Rash;
   Tincture Of Benzoin (Topical) (Benzoin)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2177-10-18**] 02:42 PM
   Vancomycin - [**2177-10-18**] 09:00 PM
   Metronidazole - [**2177-10-19**] 12:00 AM
   Levofloxacin - [**2177-10-19**] 01:00 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2177-10-18**] 12:16 PM
   Fentanyl - [**2177-10-18**] 02:48 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-19**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.6
C (99.7
   HR: 87 (81 - 115) bpm
   BP: 145/67(92) {110/51(68) - 157/70(97)} mmHg
   RR: 0 (0 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 115 kg
   Height: 67 Inch
   CVP: 18 (12 - 23)mmHg
   Total In:
                                                                  6,504 mL
                                                                    591 mL
   PO:
   TF:
   IVF:
                                                                  6,504 mL
                                                                    591 mL
   Blood products:
   Total out:
                                                                  1,955 mL
                                                                    660 mL
   Urine:
                                                                  1,955 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,549 mL
                                                                    -69 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 6,000 (6,000 - 6,000) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 97%
   ABG: 7.34/43/98.[**Numeric Identifier 176**]/26/-2
   Ve: 9.8 L/min
   PaO2 / FiO2: 196
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL, Cervical adenopathy
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   125 K/uL
   279 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.1 mEq/L
   21 mg/dL
   106 mEq/L
   140 mEq/L
   29.9 %
   9.2 K/uL
        [image002.jpg]
                             [**2177-10-17**]  02:24 AM
                             [**2177-10-17**]  05:19 PM
                             [**2177-10-17**]  07:31 PM
                             [**2177-10-17**]  08:06 PM
                             [**2177-10-18**]  01:33 AM
                             [**2177-10-18**]  01:36 AM
                             [**2177-10-18**]  08:23 AM
                             [**2177-10-18**]  10:36 AM
                             [**2177-10-19**]  12:38 AM
                             [**2177-10-19**]  01:11 AM
   WBC
   9.6
   9.2
   Hct
   36
   31.2
   31
   30.9
   29.9
   Plt
   134
   125
   Cr
   1.1
   1.0
   TCO2
   28
   31
   31
   30
   28
   29
   24
   Glucose
   266
   240
   279
   Other labs: PT / PTT / INR:15.1/28.6/1.3, ALT / AST:17/25, Alk Phos / T
   Bili:59/0.5, Differential-Neuts:86.7 %, Lymph:9.7 %, Mono:3.1 %,
   Eos:0.4 %, Lactic Acid:2.0 mmol/L, Albumin:3.3 g/dL, Ca++:8.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   63F (h/o DM2, HTN, OSA, gastric banding, gastroparesis) s/p intubation,
   gastric band removal Fri now transferred to MICU green yesterday for
   rigid bronch, successfully removed peanuts from L lung.
   # Resp Failure / PNA/ Aspiration PNA: cont bilateral infiltrates on
   CXR, LLL volume improved.
   Assays negative for flu, respiratory virsuses, and legionella.
   [] cont vanc / CTX / levaquin / flagyl
   [] cont ARDSnet volume
   [] PSV 5/5 SBT with reduced sedation
   [] wean FiO2 to PaO2 > 65
   [] alb/atrovent nebs
   [] sedation holiday completed today
   #hct drift 40
 30, now stable at 30
   [] monitor hct qday
   # DMII / Labile BS: Lantus 40 given yesterday. As outpt, on insulin
   pump 100units per 24hr.
   [] Increase lantus 60 with SS humalog. If fails, will revert to insulin
   drip
   # Emesis/ gastroparesis: S/p recent removal of lap-band.
   [] per surgery, defer barium swallow unless clinical deterioration and
   continue NGT to suction until post-extubation.
   # Hypertension: Currently mild HTN, will restart home med slowly.
   # CHF: Per chart, although most recent echo in [**2171**] with preserved EF.
   Home diuretics have been held. LOS in [**Name (NI) 1**], pt is 13L positive.
   [] lasix 40 IV x1, goal I/O >-1L net
   #R foot eschar: wound c/s
   ICU Care
   Nutrition: when afebrile, consider likely TPN if unable to take enteric
   feed [**1-13**] gastroparesis
   Glycemic Control:  per above
   Lines:
   18 Gauge - [**2177-10-17**] 08:07 AM
   Arterial Line - [**2177-10-17**] 09:48 PM
   Multi Lumen - [**2177-10-18**] 02:18 AM
   20 Gauge - [**2177-10-18**] 08:09 PM
   Prophylaxis:
   DVT: heparin ppx
   Stress ulcer: PPI
   VAP: yes
   Comments:
   Communication: HCP
   [**Name (NI) 36**] status: Full
   Disposition : MICU
   Total time spent:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   She has had good re-expansion of left lower lobe after removal or food
   fragments ( ? peanuts) with rigid bronchoscopy. She has been
   transitioned to CPAP/ PSV for now and appears to be tolerating this
   well. We will await cultures before deciding on antibiotic change. She
   will likely need TPN started in 24 hours ( after PICC placement) as she
   will need NG suction for prolonged duration to allow for esophageal
   decompression.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) 3093**] [**Name8 (MD) **],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 5791**]
   [**Location (un) 5176**], KS-B23
   [**Location (un) 23**], [**Numeric Identifier 960**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3093**] [**Name8 (MD) **], MD
   on:[**2177-10-19**] 15:40 ------

2177-10-20 06:33:00 Physician Resident Progress Note
Chief Complaint: Shortness of breath
   24 Hour Events:
   [**Doctor First Name **] recs: would only perform UGI if pt decompensates or concerned for
   intraabdominal pathology
   hypertensive to 170s, got IV labetalol 10mg x2
   Tolerated pressure support well
   stitched A-line
   -diuresed well to 20mg IV lasix x2
   40u lantus at night
   Allergies:
   Ampicillin
   Diarrhea;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; severe
   Tegaderm (Topical) (Transparent Dressing)
   Rash;
   Tincture Of Benzoin (Topical) (Benzoin)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2177-10-19**] 12:10 PM
   Vancomycin - [**2177-10-19**] 08:27 PM
   Metronidazole - [**2177-10-20**] 12:00 AM
   Levofloxacin - [**2177-10-20**] 01:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Propofol - [**2177-10-19**] 12:45 PM
   Midazolam (Versed) - [**2177-10-19**] 06:35 PM
   Fentanyl - [**2177-10-19**] 06:35 PM
   Furosemide (Lasix) - [**2177-10-19**] 06:36 PM
   Insulin - Regular - [**2177-10-19**] 06:36 PM
   Labetalol - [**2177-10-20**] 12:14 AM
   Heparin Sodium (Prophylaxis) - [**2177-10-20**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-20**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 98 (91 - 106) bpm
   BP: 154/68(96) {141/64(91) - 175/95(124)} mmHg
   RR: 0 (0 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 115 kg
   Height: 67 Inch
    CVP: 13 (13 - 16)mmHg
   Total In:
                                                                  1,547 mL
                                                                    341 mL
   PO:
   TF:
   IVF:
                                                                  1,547 mL
                                                                    341 mL
   Blood products:
   Total out:
                                                                  4,985 mL
                                                                      0 mL
   Urine:
                                                                  4,985 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,438 mL
                                                                    341 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 373 (320 - 463) mL
   PS : 5 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 95%
   ABG: 7.39/52/103/34/4
   Ve: 10 L/min
   PaO2 / FiO2: 206
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   166 K/uL
   10.2 g/dL
   197 mg/dL
   0.8 mg/dL
   34 mEq/L
   3.8 mEq/L
   19 mg/dL
   105 mEq/L
   142 mEq/L
   31.1 %
   10.9 K/uL
        [image002.jpg]
                             [**2177-10-17**]  08:06 PM
                             [**2177-10-18**]  01:33 AM
                             [**2177-10-18**]  01:36 AM
                             [**2177-10-18**]  08:23 AM
                             [**2177-10-18**]  10:36 AM
                             [**2177-10-19**]  12:38 AM
                             [**2177-10-19**]  01:11 AM
                             [**2177-10-19**]  06:08 PM
                             [**2177-10-19**]  06:32 PM
                             [**2177-10-20**]  02:54 AM
   WBC
   9.6
   9.2
   10.9
   Hct
   36
   31.2
   31
   30.9
   29.9
   31.1
   Plt
   134
   125
   166
   Cr
   1.1
   1.0
   0.8
   0.8
   TCO2
   30
   28
   29
   24
   33
   Glucose
   266
   240
   279
   260
   197
   Other labs: PT / PTT / INR:14.7/27.6/1.3, ALT / AST:17/25, Alk Phos / T
   Bili:59/0.5, Differential-Neuts:86.7 %, Lymph:9.7 %, Mono:3.1 %,
   Eos:0.4 %, Lactic Acid:2.0 mmol/L, Albumin:3.3 g/dL, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 HYPERGLYCEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 OLIGURIA/ANURIA
 HYPOGLYCEMIA
 HYPOXEMIA
   63yo F with DMII, HTN, OSA initially referred to the ED with whezzing,
   hypoxemia subsequently aspirated while on NIPPV requiring intubation
   for hypoxemia/hypercarbia. S/p removal of gastric band yesterday and
   s/p rigid bronchoscopy with removal of foreign body in Left lung.
   # Resp Failure / PNA/ Aspiration PNA: Pt's initial presentation was
   suspicious for CAP, subsequently she aspirated while on NIPPV.  As
   such, she has been treated with VANCO/ CTX /Flagyl and levofloxacin to
   cover severe CAP (including MRSA and atypicals) and aspiration.  Her
   leukocytosis has improved on this regimen (today was day 4). She is
   currently on ARDS net volumes.  Assays Negative for flu, respiratory
   virsuses, and legionella.  Progression of opacities on CXR may signify
   beginnings of pneumonitis given extensive airway inflammation seen on
   bronch.
   --Switched from AC to PSV and doing well, trial of [**4-15**] today
   --Continue broad covg for sever CAP, atypicals, and anaerobes (d4), d/c
   CTX as levaquin providing adequate covg for severe CAP
   --Serial CXRs
   # DMII / Labile BS: Pt initially hypoglycemic, then requiring insulin
   drip at 7mg/hr.
   --Resumed lantus with SS humalog. If fails, will revert to insulin drip
   # Emesis/ gastroparesis: Presumably secondary to DMII. S/p recent
   removal of lap-band.
   --NPO, NGT to suction
   --if leukocytosis or any concer for abd process would pursue Upper GI
   series to r/o perf from lap band removal (per surgery)
   # Hypertension: home regimen consists of [**Last Name (LF) 11360**], [**First Name3 (LF) **] resume when
   extubated, for now hydralazine 10mg q6h, titrate to maintain SBPs below
   160
   # CHF: Documented Hx. Most recent echo in [**2171**] with preserved EF. Home
   diuretics have been held. LOS in [**Name (NI) 1**], pt is 13L positive. Will resume
   diuresis in am if BP tolerates.
   --excellent diuresis output yesterday with relatively small doses IV
   lasix; lasix 20mg tid, [**Hospital1 **] lytes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2177-10-17**] 08:07 AM
   Arterial Line - [**2177-10-17**] 09:48 PM
   20 Gauge - [**2177-10-17**] 10:11 PM
   Multi Lumen - [**2177-10-18**] 02:18 AM
   Prophylaxis:
   DVT: sqh
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: icu

2177-10-20 11:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63F (h/o gastric banding) p/w hypoxemic respiratory failure and
   aspiration / emesis and admitted to [**Hospital Unit Name 1**]. Pt taken to OR Saturday to
   remove gastric band which had been displaced. Pt transferred to MICU
   Green for rigid bronch, which successfully removed peanuts from lung.
   24 Hour Events:
   - Surgery consult - recommended waiting until outpatient for UGI study
   - IV labetalol x 2 for HTN
   - Tmax 101.6
   - Insulin gtt d/c'ed
   - Diuresed
   Allergies:
   Ampicillin
   Diarrhea;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; severe
   Tegaderm (Topical) (Transparent Dressing)
   Rash;
   Tincture Of Benzoin (Topical) (Benzoin)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2177-10-19**] 12:10 PM
   Levofloxacin - [**2177-10-20**] 01:00 AM
   Metronidazole - [**2177-10-20**] 07:53 AM
   Vancomycin - [**2177-10-20**] 08:16 AM
   Infusions:
   Fentanyl - 80 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Propofol - [**2177-10-19**] 12:45 PM
   Midazolam (Versed) - [**2177-10-19**] 06:35 PM
   Fentanyl - [**2177-10-19**] 06:35 PM
   Furosemide (Lasix) - [**2177-10-19**] 06:36 PM
   Insulin - Regular - [**2177-10-19**] 06:36 PM
   Labetalol - [**2177-10-20**] 12:14 AM
   Pantoprazole (Protonix) - [**2177-10-20**] 08:31 AM
   Heparin Sodium (Prophylaxis) - [**2177-10-20**] 08:34 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-20**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.3
C (100.9
   HR: 101 (92 - 106) bpm
   BP: 137/61(86) {137/61(86) - 175/95(124)} mmHg
   RR: 20 (0 - 29) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.7 kg (admission): 115 kg
   Height: 67 Inch
   CVP: 14 (6 - 14)mmHg
   Total In:
                                                                  1,547 mL
                                                                    896 mL
   PO:
   TF:
   IVF:
                                                                  1,547 mL
                                                                    806 mL
   Blood products:
   Total out:
                                                                  4,985 mL
                                                                    590 mL
   Urine:
                                                                  4,985 mL
                                                                    440 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,438 mL
                                                                    306 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 393 (373 - 463) mL
   PS : 8 cmH2O
   RR (Set): 26
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 98
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: 7.39/52/103/34/4
   Ve: 10.5 L/min
   PaO2 / FiO2: 206
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   166 K/uL
   197 mg/dL
   0.8 mg/dL
   34 mEq/L
   3.8 mEq/L
   19 mg/dL
   105 mEq/L
   142 mEq/L
   31.1 %
   10.9 K/uL
        [image002.jpg]
                             [**2177-10-17**]  08:06 PM
                             [**2177-10-18**]  01:33 AM
                             [**2177-10-18**]  01:36 AM
                             [**2177-10-18**]  08:23 AM
                             [**2177-10-18**]  10:36 AM
                             [**2177-10-19**]  12:38 AM
                             [**2177-10-19**]  01:11 AM
                             [**2177-10-19**]  06:08 PM
                             [**2177-10-19**]  06:32 PM
                             [**2177-10-20**]  02:54 AM
   WBC
   9.6
   9.2
   10.9
   Hct
   36
   31.2
   31
   30.9
   29.9
   31.1
   Plt
   134
   125
   166
   Cr
   1.1
   1.0
   0.8
   0.8
   TCO2
   30
   28
   29
   24
   33
   Glucose
   266
   240
   279
   260
   197
   Other labs: PT / PTT / INR:14.7/27.6/1.3, ALT / AST:17/25, Alk Phos / T
   Bili:59/0.5, Differential-Neuts:86.7 %, Lymph:9.7 %, Mono:3.1 %,
   Eos:0.4 %, Lactic Acid:2.0 mmol/L, Albumin:3.3 g/dL, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
   63F (h/o DM2, HTN, OSA, gastric banding, gastroparesis) s/p intubation,
   gastric band removal Fri now transferred to MICU green yesterday for
   rigid bronch, successfully removed peanuts from L lung.
   # Resp Failure / PNA/ Aspiration PNA: cont bilateral infiltrates on
   CXR, LLL volume improved.
   Assays negative for flu, respiratory virsuses, and legionella.
   - cont vanc / CTX / levaquin / flagyl
   - cont ARDSnet volume
   - PSV 5/5 SBT with reduced sedation
   - wean FiO2 to PaO2 > 65
   - alb/atrovent nebs
   - sedation holiday completed today
   #hct drift 40
 30, now stable at 30
   - monitor hct qday
   # DMII / Labile BS: Lantus 40 given yesterday. As outpt, on insulin
   pump 100units per 24hr.
   - Increase lantus 60 with SS humalog. If fails, will revert to insulin
   drip
   # Emesis/ gastroparesis: S/p recent removal of lap-band.
   - per surgery, defer barium swallow unless clinical deterioration and
   continue NGT to suction until post-extubation.
   # Hypertension: Currently mild HTN, will restart home med slowly.
   # CHF: Per chart, although most recent echo in [**2171**] with preserved EF.
   Home diuretics have been held. LOS in [**Name (NI) 1**], pt is 13L positive.
   - lasix 40 IV x1, goal I/O >-1L net
   #R foot eschar: wound c/s
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2177-10-17**] 08:07 AM
   Arterial Line - [**2177-10-17**] 09:48 PM
   Multi Lumen - [**2177-10-18**] 02:18 AM
   20 Gauge - [**2177-10-18**] 08:09 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 20 minutes
   Patient is critically ill

2177-10-21 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2177-10-21**] 04:00 AM
 BLOOD CULTURED - At [**2177-10-21**] 04:00 AM
 FEVER - 102.5
F - [**2177-10-20**] 11:00 PM
   TPN started
   Patient febrile over the last 24 hours, until 4am this morning
   +Hypoxia overnight to high 80s, improved with increase in PEEP from 5
   to 10
   Allergies:
   Ampicillin
   Diarrhea;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; severe
   Tegaderm (Topical) (Transparent Dressing)
   Rash;
   Tincture Of Benzoin (Topical) (Benzoin)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2177-10-20**] 12:00 PM
   Vancomycin - [**2177-10-20**] 08:44 PM
   Levofloxacin - [**2177-10-20**] 11:57 PM
   Metronidazole - [**2177-10-20**] 11:57 PM
   Infusions:
   Fentanyl - 80 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2177-10-20**] 08:31 AM
   Hydralazine - [**2177-10-20**] 08:44 PM
   Heparin Sodium (Prophylaxis) - [**2177-10-20**] 11:57 PM
   Furosemide (Lasix) - [**2177-10-20**] 11:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-21**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37.4
C (99.4
   HR: 86 (86 - 116) bpm
   BP: 163/65(93) {137/54(83) - 197/79(119)} mmHg
   RR: 15 (9 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 115 kg
   Height: 67 Inch
    CVP: 12 (6 - 17)mmHg
   Total In:
                                                                  2,321 mL
                                                                    416 mL
   PO:
   TF:
   IVF:
                                                                  1,799 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  2,820 mL
                                                                  1,700 mL
   Urine:
                                                                  2,670 mL
                                                                  1,700 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                   -499 mL
                                                                 -1,284 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 522 (393 - 522) mL
   PS : 10 cmH2O
   RR (Set): 26
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: 7.41/59/82.[**Numeric Identifier 143**]/35/9
   Ve: 9.6 L/min
   PaO2 / FiO2: 166
   Physical Examination
   1+ pitting edema of bilateral upper extremties, rrr no m/r/g, lungs
   diffuse ronchorous, sedated
   Labs / Radiology
   169 K/uL
   10.1 g/dL
   257 mg/dL
   0.8 mg/dL
   35 mEq/L
   3.7 mEq/L
   21 mg/dL
   105 mEq/L
   145 mEq/L
   30.5 %
   10.8 K/uL
        [image002.jpg]
                             [**2177-10-19**]  12:38 AM
                             [**2177-10-19**]  01:11 AM
                             [**2177-10-19**]  06:08 PM
                             [**2177-10-19**]  06:32 PM
                             [**2177-10-20**]  02:54 AM
                             [**2177-10-20**]  08:20 PM
                             [**2177-10-20**]  08:31 PM
                             [**2177-10-20**]  11:45 PM
                            [**2177-10-21**]  05:15 AM
                            [**2177-10-21**]  06:05 AM
   WBC
   9.2
   10.9
   10.8
   Hct
   29.9
   31.1
   30.5
   Plt
   125
   166
   169
   Cr
   1.0
   0.8
   0.8
   0.9
   0.8
   TCO2
   24
   33
   38
   38
   39
   Glucose
   279
   260
   197
   231
   257
   Other labs: PT / PTT / INR:16.2/29.4/1.4, ALT / AST:17/25, Alk Phos / T
   Bili:59/0.5, Differential-Neuts:86.7 %, Lymph:9.7 %, Mono:3.1 %,
   Eos:0.4 %, Lactic Acid:1.1 mmol/L, Albumin:3.3 g/dL, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 HYPERGLYCEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 OLIGURIA/ANURIA
 HYPOGLYCEMIA
 HYPOXEMIA
   63yo F with DMII, HTN, OSA initially referred to the ED with whezzing,
   hypoxemia subsequently aspirated while on NIPPV requiring intubation
   for hypoxemia/hypercarbia. S/p removal of gastric band and s/p rigid
   bronchoscopy with removal of foreign body in Left lung. Persistently
   febrile.
   # Resp Failure / PNA/ Aspiration PNA: Pt's initial presentation was
   suspicious for CAP, subsequently she aspirated while on NIPPV.  As
   such, she has been treated with VANCO/ levaquin /Flagyl to cover severe
   CAP (including atypicals), MRSA and aspiration.  Her leukocytosis has
   improved on this regimen (today was day 5). She was originally on AC
   with ARDS net volumes.  Her CXR today showed improvement of bilateral
   patchy opacities, but revealed a more focal process in the RUL.
   --Increase PEEP to 14 overnight in effort to recruit alveoli in RUL, if
   unchanged, plan for bronch in am
   --Continue broad covg for sever CAP & aspiration (d5)
   --Continue PSV at current setting as pt seems to require current level
   of positive pressure to maintain oxygenatiion
   --Serial CXRs
   # Persistent fevers: likely secondary to lung process, but must also
   consider abdominal process given recent procedure.  D/w surgery, to
   rule out esophageal perf, pt would require contrast per NG and
   CT
holding off at this point as suspicion is low with benign abdomen
   and lack of leukocytosis, but would consider this if fevers continue.
   Other concern would be DVT as pt with b/L UE edema without LE edema.
   -B/L UE US to r/o DVT, this would not r/o SVC clot, Ct-con would be
   required for that
   # DMII / Labile BS: Pt initially hypoglycemic, then requiring insulin
   drip at 7mg/hr. Resumed lantus with SS humalog.
   --insulin requirement increased with TPN, lantus increased by 50% to
   60mg daily, will uptitirate further as needed
   # Emesis/ gastroparesis: Presumably secondary to DMII. S/p recent
   removal of lap-band.
   --NPO, NGT to suction; will continue NGT to suction
   --if leukocytosis or any concer for abd process would pursue Upper GI
   series to r/o perf from lap band removal (per surgery)
   # Hypertension:  RESTART HOME DIOVAN 80 [**Hospital1 7**]
   # CHF: Documented Hx. Most recent echo in [**2171**] with preserved EF. Home
   diuretics have been held. LOS in [**Name (NI) 1**], pt is 13L positive.  Excellent
   diuresis with lasix 20mg tid, [**Hospital1 **] lytes. Goal out is at tleast 2L.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2177-10-20**] 05:52 PM 41 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2177-10-17**] 08:07 AM
   Arterial Line - [**2177-10-17**] 09:48 PM
   Multi Lumen - [**2177-10-18**] 02:18 AM
   20 Gauge - [**2177-10-18**] 08:09 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition:  ICU

2177-10-21 11:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Febrile until 4am
   - Peep increased to 10 for hypoxia
   Allergies:
   Ampicillin
   Diarrhea;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; severe
   Tegaderm (Topical) (Transparent Dressing)
   Rash;
   Tincture Of Benzoin (Topical) (Benzoin)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2177-10-20**] 12:00 PM
   Levofloxacin - [**2177-10-20**] 11:57 PM
   Vancomycin - [**2177-10-21**] 07:55 AM
   Metronidazole - [**2177-10-21**] 07:55 AM
   Infusions:
   Fentanyl - 80 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Hydralazine - [**2177-10-20**] 08:44 PM
   Heparin Sodium (Prophylaxis) - [**2177-10-21**] 07:55 AM
   Furosemide (Lasix) - [**2177-10-21**] 07:55 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-21**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 38
C (100.4
   HR: 87 (83 - 116) bpm
   BP: 153/59(87) {141/54(83) - 197/79(119)} mmHg
   RR: 18 (9 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 115 kg
   Height: 67 Inch
   CVP: 7 (7 - 15)mmHg
   Total In:
                                                                  2,321 mL
                                                                  1,155 mL
   PO:
   TF:
   IVF:
                                                                  1,799 mL
                                                                    476 mL
   Blood products:
   Total out:
                                                                  2,820 mL
                                                                  2,930 mL
   Urine:
                                                                  2,670 mL
                                                                  2,930 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                   -499 mL
                                                                 -1,775 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 528 (399 - 528) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 96%
   ABG: 7.41/59/82.[**Numeric Identifier 143**]/35/9
   Ve: 8.7 L/min
   PaO2 / FiO2: 166
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   169 K/uL
   257 mg/dL
   0.8 mg/dL
   35 mEq/L
   3.7 mEq/L
   21 mg/dL
   105 mEq/L
   145 mEq/L
   30.5 %
   10.8 K/uL
        [image002.jpg]
                             [**2177-10-19**]  12:38 AM
                             [**2177-10-19**]  01:11 AM
                             [**2177-10-19**]  06:08 PM
                             [**2177-10-19**]  06:32 PM
                             [**2177-10-20**]  02:54 AM
                             [**2177-10-20**]  08:20 PM
                             [**2177-10-20**]  08:31 PM
                             [**2177-10-20**]  11:45 PM
                            [**2177-10-21**]  05:15 AM
                            [**2177-10-21**]  06:05 AM
   WBC
   9.2
   10.9
   10.8
   Hct
   29.9
   31.1
   30.5
   Plt
   125
   166
   169
   Cr
   1.0
   0.8
   0.8
   0.9
   0.8
   TCO2
   24
   33
   38
   38
   39
   Glucose
   279
   260
   197
   231
   257
   Other labs: PT / PTT / INR:16.2/29.4/1.4, ALT / AST:17/25, Alk Phos / T
   Bili:59/0.5, Differential-Neuts:86.7 %, Lymph:9.7 %, Mono:3.1 %,
   Eos:0.4 %, Lactic Acid:1.1 mmol/L, Albumin:3.3 g/dL, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Imaging: CXR - Bilateral patchy infiltrates worse in the RUL.
   Microbiology: All negative or pending.
   Assessment and Plan
   63F with h/o DM2, HTN, OSA, gastric banding, gastroparesis, significant
   aspiration s/p intubation, gastric band removal Fri now transferred to
   MICU green Saturday for rigid bronch - successfully removed peanuts
   from L lung.
   # Resp Failure / PNA/ Aspiration PNA: cont bilateral infiltrates on
   CXR, LLL volume improved.  Concern about large pneumonitis component.
   Assays negative for flu, respiratory virsuses, and legionella. [**Month (only) 51**]
   progress to ARDS.
   - Cont Vanc / levaquin / flagyl
   - On PSV overnight with increased PEEP for worsening oxygenation
   - Wean FiO2/PEEP to PaO2 > 65
   - Alb/atrovent nebs
   - Diurese
   If worsening hypoxemia with features of atelectasis or mucous plugging,
   will repeat therapeutic bronchoscopy
   # Persistent fevers / nl WBC count: CXR stable to improved
 could be
   from pneumonitis.  Cultures negative.
   - High risk of esophageal perf from gastric band removal.  Recommended
   UGI series.
   - Pan culture
   # DMII / Labile BS: Lantus 40 given yesterday. As outpt, on insulin
   pump 100units per 24hr.  Increased dexis on TPN.
   - Increase lantus 60 with SS humalog
   # Emesis/ gastroparesis: S/p recent removal of lap-band.
   - Per surgery, defer barium swallow unless clinical deterioration and
   continue NGT to suction until post-extubation
   - On TPN
   # Hypertension:
   - Restart home meds at low dose and titrate
   # CHF: Per chart, although most recent echo in [**2171**] with preserved EF.
   Home diuretics have been held.
   - PRN lasix, goal I/O >-1L net
   #R foot eschar: wound c/s
   ICU Care
   Nutrition:
   TPN without Lipids - [**2177-10-20**] 05:52 PM 41 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2177-10-17**] 08:07 AM
   Arterial Line - [**2177-10-17**] 09:48 PM
   Multi Lumen - [**2177-10-18**] 02:18 AM
   20 Gauge - [**2177-10-18**] 08:09 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2177-10-22 06:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2177-10-22**] 06:19 AM
   from A-line
 FEVER - 101.4
F - [**2177-10-22**] 12:00 AM
   - febrile until 4am and then febrile again in afternoon into the
   evening
   - bilateral UE U/S ordered to exclude UE DVT -negative
   - holding on upper GI series
   - PEEP increasedto 14 to see if that would help with RUL opacity
   Allergies:
   Ampicillin
   Diarrhea;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; severe
   Tegaderm (Topical) (Transparent Dressing)
   Rash;
   Tincture Of Benzoin (Topical) (Benzoin)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2177-10-20**] 12:00 PM
   Vancomycin - [**2177-10-21**] 08:59 PM
   Metronidazole - [**2177-10-22**] 12:06 AM
   Levofloxacin - [**2177-10-22**] 01:29 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 80 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2177-10-22**] 12:05 AM
   Heparin Sodium (Prophylaxis) - [**2177-10-22**] 12:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-22**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.1
C (100.6
   HR: 98 (76 - 102) bpm
   BP: 131/56(80) {114/53(74) - 194/188(191)} mmHg
   RR: 12 (12 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 115 kg
   Height: 67 Inch
    CVP: 13 (6 - 53)mmHg
   Total In:
                                                                  2,397 mL
                                                                    675 mL
   PO:
   TF:
   IVF:
                                                                  1,004 mL
                                                                    384 mL
   Blood products:
   Total out:
                                                                  4,375 mL
                                                                  2,280 mL
   Urine:
                                                                  4,375 mL
                                                                  2,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,978 mL
                                                                 -1,605 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 634 (480 - 634) mL
   PS : 10 cmH2O
   RR (Spontaneous): 13
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 98%
   ABG: 7.47/53/160/38/13
   Ve: 8.2 L/min
   PaO2 / FiO2: 320
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Skin:  No rashes
   Neurologic: Intubated and sedated.
   Labs / Radiology
   181 K/uL
   10.0 g/dL
   273 mg/dL
   0.7 mg/dL
   38 mEq/L
   3.7 mEq/L
   26 mg/dL
   103 mEq/L
   145 mEq/L
   31.1 %
   10.1 K/uL
        [image002.jpg]
                             [**2177-10-19**]  06:32 PM
                             [**2177-10-20**]  02:54 AM
                             [**2177-10-20**]  08:20 PM
                             [**2177-10-20**]  08:31 PM
                             [**2177-10-20**]  11:45 PM
                            [**2177-10-21**]  05:15 AM
                            [**2177-10-21**]  06:05 AM
                            [**2177-10-21**]  05:25 PM
                            [**2177-10-22**]  03:50 AM
                            [**2177-10-22**]  03:59 AM
   WBC
   10.9
   10.8
   10.1
   Hct
   31.1
   30.5
   31.1
   Plt
   166
   169
   181
   Cr
   0.8
   0.9
   0.8
   0.7
   0.7
   TCO2
   33
   38
   38
   39
   40
   Glucose
   197
   231
   257
   294
   273
   Other labs: PT / PTT / INR:15.9/29.8/1.4, ALT / AST:17/25, Alk Phos / T
   Bili:59/0.5, Differential-Neuts:86.7 %, Lymph:9.7 %, Mono:3.1 %,
   Eos:0.4 %, Lactic Acid:1.1 mmol/L, Albumin:3.3 g/dL, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 HYPERGLYCEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 OLIGURIA/ANURIA
 HYPOGLYCEMIA
 HYPOXEMIA
   63yo F with DMII, HTN, OSA initially referred to the ED with whezzing,
   hypoxemia subsequently aspirated while on NIPPV requiring intubation
   for hypoxemia/hypercarbia. S/p removal of gastric band and s/p rigid
   bronchoscopy with removal of foreign body in Left lung. Persistently
   febrile.
   # Resp Failure / PNA/ Aspiration PNA: Pt's initial presentation was
   suspicious for CAP, subsequently she aspirated while on NIPPV.  As
   such, she has been treated with VANCO/ levaquin /Flagyl to cover severe
   CAP (including atypicals), MRSA and aspiration.  Her leukocytosis has
   improved on this regimen (today was day 6). She was originally on AC
   with ARDS net volumes.  Her CXR today showed improvement of bilateral
   patchy opacities, but revealed a more focal process in the RUL.
   --Increasee PEEP to 14  which seemed to improve RUL opacity
   --Continue broad covg for sever CAP & aspiration (d6)
Vanc, Levo,
   Flagyl
   --Continue PSV at current setting as pt seems to require current level
   of positive pressure to maintain oxygenatiion
   --Serial CXRs
   --diurese with lasix 20mg IV tid
check [**Hospital1 **] lytes
   # Persistent fevers: likely secondary to lung process, but must also
   consider abdominal process given recent procedure.  Discussed with
   surgery possibility of esophageal perf, pt would require contrast per
   NG and CT
holding off at this point as suspicion is low with benign
   abdomen and lack of leukocytosis, but would consider this if fevers
   continue.  Other concern would be DVT as pt with b/L UE edema without
   LE edema. Other etiologies include drug fevers to antibiotics, as
   patient clinically appears to be improving.
   -B/L UE US negative for DVT
   -CT abdomen to eval for potential abscess
   # Bilateral upper extremity swelling: concerning for SVC syndrome
   -obtain CTA to eval for SVC syndrome
   this would not r/o SVC clot, Ct-con would be required for that
   # DMII / Labile BS: Pt initially hypoglycemic, then requiring insulin
   drip at 7mg/hr. Resumed lantus with SS humalog.
   --insulin requirement increased with TPN again today, lantus increased
   by 50% to 60mg daily, will uptitirate further as needed
   # Emesis/ gastroparesis: Presumably secondary to DMII. S/p recent
   removal of lap-band.
   --NPO, NGT to suction; will continue NGT to suction
   --if leukocytosis or any concer for abd process would pursue Upper GI
   series to r/o perf from lap band removal (per surgery)
   # Hypertension:  continue diovan 80mg po bid and hydralazine 10mg po
   q6h
   # CHF: Documented Hx. Most recent echo in [**2171**] with preserved EF. Home
   diuretics have been held. LOS in [**Name (NI) 1**], pt is 13L positive.  Excellent
   diuresis with lasix 20mg tid, [**Hospital1 **] lytes. Goal out is at tleast 2L.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2177-10-21**] 06:00 PM 46 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2177-10-17**] 09:48 PM
   20 Gauge - [**2177-10-17**] 10:11 PM
   Multi Lumen - [**2177-10-18**] 02:18 AM
   Prophylaxis:
   DVT: sqh
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full
   Disposition: icu

2177-10-22 10:09:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Tm 101.4
   - B/L UE ultrasounds  reveal done: no thrombus
   - PEEP increased to 14
   Allergies:
   Ampicillin
   Diarrhea;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; severe
   Tegaderm (Topical) (Transparent Dressing)
   Rash;
   Tincture Of Benzoin (Topical) (Benzoin)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2177-10-20**] 12:00 PM
   Levofloxacin - [**2177-10-22**] 01:29 AM
   Vancomycin - [**2177-10-22**] 08:09 AM
   Metronidazole - [**2177-10-22**] 08:09 AM
   Infusions:
   Fentanyl - 80 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2177-10-22**] 08:09 AM
   Heparin Sodium (Prophylaxis) - [**2177-10-22**] 08:10 AM
   Midazolam (Versed) - [**2177-10-22**] 08:12 AM
   Fentanyl - [**2177-10-22**] 08:12 AM
   Other medications:
   Colace, heparin, Flagyl, MDIs, Levofloxacin, Protonix, Vanco,
   Hydralazine, Lasix 20 IV q8, Diovan, RISS, Lantus
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-22**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.9
C (100.2
   HR: 88 (76 - 102) bpm
   BP: 121/53(74) {114/52(72) - 194/188(191)} mmHg
   RR: 10 (10 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 115 kg
   Height: 67 Inch
   CVP: 22 (6 - 53)mmHg
   Total In:
                                                                  2,397 mL
                                                                  1,220 mL
   PO:
   TF:
   IVF:
                                                                  1,004 mL
                                                                    761 mL
   Blood products:
   Total out:
                                                                  4,375 mL
                                                                  2,940 mL
   Urine:
                                                                  4,375 mL
                                                                  2,940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,978 mL
                                                                 -1,720 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 821 (480 - 821) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 100%
   ABG: 7.47/53/160/38/13
   Ve: 11.2 L/min
   PaO2 / FiO2: 320
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Upper extremity edema: 1+, Lower extremity edema: negative
   Skin:  No rashes
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   181 K/uL
   273 mg/dL
   0.7 mg/dL
   38 mEq/L
   3.7 mEq/L
   26 mg/dL
   103 mEq/L
   145 mEq/L
   31.1 %
   10.1 K/uL
        [image002.jpg]
                             [**2177-10-19**]  06:32 PM
                             [**2177-10-20**]  02:54 AM
                             [**2177-10-20**]  08:20 PM
                             [**2177-10-20**]  08:31 PM
                             [**2177-10-20**]  11:45 PM
                            [**2177-10-21**]  05:15 AM
                            [**2177-10-21**]  06:05 AM
                            [**2177-10-21**]  05:25 PM
                            [**2177-10-22**]  03:50 AM
                            [**2177-10-22**]  03:59 AM
   WBC
   10.9
   10.8
   10.1
   Hct
   31.1
   30.5
   31.1
   Plt
   166
   169
   181
   Cr
   0.8
   0.9
   0.8
   0.7
   0.7
   TCO2
   33
   38
   38
   39
   40
   Glucose
   197
   231
   257
   294
   273
   Other labs: PT / PTT / INR:15.9/29.8/1.4, ALT / AST:17/25, Alk Phos / T
   Bili:59/0.5, Differential-Neuts:86.7 %, Lymph:9.7 %, Mono:3.1 %,
   Eos:0.4 %, Lactic Acid:1.1 mmol/L, Albumin:3.3 g/dL, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Imaging: CXR - Remarkably improved opacities.
   Microbiology: No new micro data.
   Assessment and Plan
   63F with h/o DM2, HTN, OSA, gastric banding, gastroparesis, significant
   aspiration s/p intubation, gastric band removal [**10-17**] now transferred to
   MICU green [**10-18**] for rigid bronch - successfully removed peanuts from L
   lung.
   # Resp Failure / PNA/ Aspiration PNA: Improving infiltrates on CXR.
   Concern about large pneumonitis component.  Assays negative for flu,
   respiratory virsuses, and legionella.
   - Cont Vanc / levaquin / flagyl  - Day [**5-21**]
   - On PSV overnight with increased PEEP
   - Wean FiO2 to PaO2 > 65, would leave PEEP elevated for now given
   improvement in CXR
   - Alb/atrovent nebs
   - Diurese
   - If worsening hypoxemia with features of atelectasis or mucous
   plugging, will repeat therapeutic bronchoscopy - CXR improved today on
   higher PEEP
   [**Month (only) 51**] consider SBT in am [**10-23**] if secretions and CXR have improved
   # Persistent fevers / nl WBC count: CXR improved
 could be from
   pneumonitis.  Cultures negative.  Will eval for DVT. Drug fever would
   be other possibility.
   - F/U cultures
   - , consider CT torso with IVC to evaluate for SVC thrombus or other
   source of infection
   # DMII / Labile BS: Lantus 40 given yesterday. As outpt, on insulin
   pump 100units per 24hr.  Increased dexis on TPN.
   - Lantus 60 with SS humalog
   - Add insulin to TPN
   # Emesis/ gastroparesis: S/p recent removal of lap-band.
   - Per surgery, continue NGT to suction until post-extubation
   - On TPN
   # Hypertension:
   - On home meds, continue to titrate
   # CHF: Per chart, although most recent echo in [**2171**] with preserved EF.
   Home diuretics have been held.
   - On lasix, goal I/O >-1L net
   ICU Care
   Nutrition:
   TPN without Lipids - [**2177-10-21**] 06:00 PM 46 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2177-10-17**] 09:48 PM
   20 Gauge - [**2177-10-17**] 10:11 PM
   Multi Lumen - [**2177-10-18**] 02:18 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2177-10-23 06:20:00 Physician Resident Progress Note
Chief Complaint: Shortness of breath
   24 Hour Events:
 ULTRASOUND - At [**2177-10-22**] 09:15 AM
   Upper extremity US negative for DVT
   Uncoiled NG tube
   Increased insulin in TPN
   Put in for CTA to eval for SVC syndrome, and CT abdomen:
   . Interval development of ground-glass opacity in the lungs
   bilaterally.
   This may represent edema, inflammatory or infectious process. Interval
   decrease in more focal solid consolidations in the left lung when
   compared to
   prior exam. Small bilateral pleural effusions.
   2. Extensive hilar lymphadenopathy as described above.
   3. Left thyroid gland nodule. Further non-urgent thyroid ultrasound is
   recommended.
   4. Pulmonary nodules. Followup chest CT within six months is
   recommended.
   5. Left renal hypodensity, incompletely characterized.
   6. Fibroid uterus.
   7. Prominent pelvic and inguinal lymph nodes.
   8. Multilevel degenerative changes with moderate-to-severe canal
   stenosis
   particularly within the lumbar spine.
   9. No evidence of obstruction.
   Allergies:
   Ampicillin
   Diarrhea;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; severe
   Tegaderm (Topical) (Transparent Dressing)
   Rash;
   Tincture Of Benzoin (Topical) (Benzoin)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2177-10-20**] 12:00 PM
   Vancomycin - [**2177-10-22**] 08:35 PM
   Levofloxacin - [**2177-10-23**] 12:28 AM
   Metronidazole - [**2177-10-23**] 12:28 AM
   Infusions:
   Fentanyl - 80 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-10-22**] 08:10 AM
   Midazolam (Versed) - [**2177-10-22**] 08:12 AM
   Fentanyl - [**2177-10-22**] 10:40 AM
   Furosemide (Lasix) - [**2177-10-23**] 12:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-23**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.6
C (99.7
   HR: 99 (78 - 100) bpm
   BP: 101/51(65) {91/50(62) - 174/77(104)} mmHg
   RR: 10 (8 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.7 kg (admission): 115 kg
   Height: 67 Inch
    CVP: 10 (2 - 26)mmHg
   Total In:
                                                                  2,632 mL
                                                                    673 mL
   PO:
   TF:
   IVF:
                                                                  1,404 mL
                                                                    383 mL
   Blood products:
   Total out:
                                                                  4,765 mL
                                                                  1,260 mL
   Urine:
                                                                  4,765 mL
                                                                  1,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,133 mL
                                                                   -587 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 636 (628 - 821) mL
   PS : 10 cmH2O
   RR (Spontaneous): 10
   PEEP: 14 cmH2O
   FiO2: 50%
   PIP: 25 cmH2O
   SpO2: 99%
   ABG: 7.45/55/178/38/12
   Ve: 6.9 L/min
   PaO2 / FiO2: 356
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Skin:  No rashes
   Neurologic: Intubated and sedated.
   Labs / Radiology
   214 K/uL
   9.8 g/dL
   233 mg/dL
   0.8 mg/dL
   38 mEq/L
   3.6 mEq/L
   25 mg/dL
   99 mEq/L
   140 mEq/L
   31.1 %
   8.8 K/uL
        [image002.jpg]
                             [**2177-10-20**]  08:31 PM
                             [**2177-10-20**]  11:45 PM
                            [**2177-10-21**]  05:15 AM
                            [**2177-10-21**]  06:05 AM
                            [**2177-10-21**]  05:25 PM
                            [**2177-10-22**]  03:50 AM
                            [**2177-10-22**]  03:59 AM
                            [**2177-10-22**]  04:31 PM
                            [**2177-10-23**]  03:21 AM
                            [**2177-10-23**]  03:38 AM
   WBC
   10.8
   10.1
   8.8
   Hct
   30.5
   31.1
   31.1
   Plt
   169
   181
   214
   Cr
   0.8
   0.7
   0.7
   0.7
   0.8
   TCO2
   38
   38
   39
   40
   39
   Glucose
   257
   294
   273
   269
   233
   Other labs: PT / PTT / INR:15.4/32.1/1.3, ALT / AST:17/25, Alk Phos / T
   Bili:59/0.5, Differential-Neuts:86.7 %, Lymph:9.7 %, Mono:3.1 %,
   Eos:0.4 %, Lactic Acid:1.1 mmol/L, Albumin:3.3 g/dL, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 HYPERGLYCEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 OLIGURIA/ANURIA
 HYPOGLYCEMIA
 HYPOXEMIA
   63yo F with DMII, HTN, OSA initially referred to the ED with whezzing,
   hypoxemia subsequently aspirated while on NIPPV requiring intubation
   for hypoxemia/hypercarbia. S/p removal of gastric band and s/p rigid
   bronchoscopy with removal of foreign body in Left lung. Persistently
   febrile.
   # Resp Failure / PNA/ Aspiration PNA: Pt's initial presentation was
   suspicious for CAP, subsequently she aspirated while on NIPPV.  As
   such, she has been treated with VANCO/ levaquin /Flagyl to cover severe
   CAP (including atypicals), MRSA and aspiration.  Her leukocytosis has
   improved on this regimen (today was day 6). She was originally on AC
   with ARDS net volumes.  Her CXR today showed improvement of bilateral
   patchy opacities, but revealed a more focal process in the RUL.
   --Increasee PEEP to 14  which seemed to improve RUL opacity
   --Continue broad covg for sever CAP & aspiration (d6)
Vanc, Levo,
   Flagyl
   --Continue PSV at current setting as pt seems to require current level
   of positive pressure to maintain oxygenatiion
   --Serial CXRs
   --diurese with lasix 20mg IV tid
check [**Hospital1 **] lytes
   # Persistent fevers: likely secondary to lung process, but must also
   consider abdominal process given recent procedure.  Discussed with
   surgery possibility of esophageal perf, pt would require contrast per
   NG and CT
holding off at this point as suspicion is low with benign
   abdomen and lack of leukocytosis, but would consider this if fevers
   continue.  Other concern would be DVT as pt with b/L UE edema without
   LE edema. Other etiologies include drug fevers to antibiotics, as
   patient clinically appears to be improving.
   -B/L UE US negative for DVT
   -CT abdomen to eval for potential abscess
   # Bilateral upper extremity swelling: concerning for SVC syndrome
   -obtain CTA to eval for SVC syndrome
   this would not r/o SVC clot, Ct-con would be required for that
   # DMII / Labile BS: Pt initially hypoglycemic, then requiring insulin
   drip at 7mg/hr. Resumed lantus with SS humalog.
   --insulin requirement increased with TPN again today, lantus increased
   by 50% to 60mg daily, will uptitirate further as needed
   # Emesis/ gastroparesis: Presumably secondary to DMII. S/p recent
   removal of lap-band.
   --NPO, NGT to suction; will continue NGT to suction
   --if leukocytosis or any concer for abd process would pursue Upper GI
   series to r/o perf from lap band removal (per surgery)
   # Hypertension:  continue diovan 80mg po bid and hydralazine 10mg po
   q6h
   # CHF: Documented Hx. Most recent echo in [**2171**] with preserved EF. Home
   diuretics have been held. LOS in [**Name (NI) 1**], pt is 13L positive.  Excellent
   diuresis with lasix 20mg tid, [**Hospital1 **] lytes. Goal out is at tleast 2L.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2177-10-22**] 04:18 PM 46 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2177-10-17**] 09:48 PM
   20 Gauge - [**2177-10-17**] 10:11 PM
   Multi Lumen - [**2177-10-18**] 02:18 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2177-10-23 09:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - CT C/A/P
   - Tm 100.3
   Allergies:
   Ampicillin
   Diarrhea;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; severe
   Tegaderm (Topical) (Transparent Dressing)
   Rash;
   Tincture Of Benzoin (Topical) (Benzoin)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2177-10-20**] 12:00 PM
   Vancomycin - [**2177-10-22**] 08:35 PM
   Levofloxacin - [**2177-10-23**] 12:28 AM
   Metronidazole - [**2177-10-23**] 08:47 AM
   Infusions:
   Midazolam (Versed) - 2.5 mg/hour
   Fentanyl (Concentrate) - 60 mcg/hour
   Other ICU medications:
   Fentanyl - [**2177-10-22**] 10:40 AM
   Pantoprazole (Protonix) - [**2177-10-23**] 08:47 AM
   Heparin Sodium (Prophylaxis) - [**2177-10-23**] 08:47 AM
   Furosemide (Lasix) - [**2177-10-23**] 08:47 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-23**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 114 (78 - 114) bpm
   BP: 158/72(96) {91/50(62) - 174/77(104)} mmHg
   RR: 11 (8 - 19) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 111.7 kg (admission): 115 kg
   Height: 67 Inch
   CVP: 16 (2 - 26)mmHg
   Total In:
                                                                  2,632 mL
                                                                  1,327 mL
   PO:
   TF:
   IVF:
                                                                  1,404 mL
                                                                    601 mL
   Blood products:
   Total out:
                                                                  4,765 mL
                                                                  1,740 mL
   Urine:
                                                                  4,765 mL
                                                                  1,740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,133 mL
                                                                   -413 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 582 (582 - 736) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 14 cmH2O
   FiO2: 50%
   PIP: 25 cmH2O
   SpO2: 99%
   ABG: 7.45/55/178/38/12
   Ve: 12.3 L/min
   PaO2 / FiO2: 356
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, BUE edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   214 K/uL
   233 mg/dL
   0.8 mg/dL
   38 mEq/L
   3.6 mEq/L
   25 mg/dL
   99 mEq/L
   140 mEq/L
   31.1 %
   8.8 K/uL
        [image002.jpg]
                             [**2177-10-20**]  08:31 PM
                             [**2177-10-20**]  11:45 PM
                            [**2177-10-21**]  05:15 AM
                            [**2177-10-21**]  06:05 AM
                            [**2177-10-21**]  05:25 PM
                            [**2177-10-22**]  03:50 AM
                            [**2177-10-22**]  03:59 AM
                            [**2177-10-22**]  04:31 PM
                            [**2177-10-23**]  03:21 AM
                            [**2177-10-23**]  03:38 AM
   WBC
   10.8
   10.1
   8.8
   Hct
   30.5
   31.1
   31.1
   Plt
   169
   181
   214
   Cr
   0.8
   0.7
   0.7
   0.7
   0.8
   TCO2
   38
   38
   39
   40
   39
   Glucose
   257
   294
   273
   269
   233
   Other labs: PT / PTT / INR:15.4/32.1/1.3, ALT / AST:17/25, Alk Phos / T
   Bili:59/0.5, Differential-Neuts:86.7 %, Lymph:9.7 %, Mono:3.1 %,
   Eos:0.4 %, Lactic Acid:1.1 mmol/L, Albumin:3.3 g/dL, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Imaging: CT Chest - GGO, small b/l effusions, hilar LAD, pulm nodules,
   thyroid nodule
   CT Abd/Pelvis - Fibroids, Inguinal LN
   CXR - Improving dramatically
   Microbiology: All negative to date.
   Assessment and Plan
   63F with h/o DM2, HTN, OSA, gastric banding, gastroparesis, significant
   aspiration s/p intubation, gastric band removal [**10-17**] now transferred to
   MICU green [**10-18**] for rigid bronch - successfully removed peanuts from L
   lung.
   # Resp Failure / PNA/ Aspiration PNA: Improving infiltrates on CXR.
   Concern about large pneumonitis component.  Assays negative for flu,
   respiratory virsuses, and legionella.
   - Cont Vanc / levaquin / flagyl  - Day [**5-21**]
   - On PSV overnight with increased PEEP
   - Wean FiO2 to PaO2 > 65, would leave PEEP elevated for now given
   improvement in CXR
   - Alb/atrovent nebs
   - Diurese
   - If worsening hypoxemia with features of atelectasis or mucous
   plugging, will repeat therapeutic bronchoscopy - CXR improved today on
   higher PEEP
   [**Month (only) 51**] consider SBT in am [**10-23**] if secretions and CXR have improved
   # Persistent fevers / nl WBC count: CXR improved
 could be from
   pneumonitis.  Cultures negative.  Will eval for DVT. Drug fever would
   be other possibility.
   - F/U cultures
   - , consider CT torso with IVC to evaluate for SVC thrombus or other
   source of infection
   # DMII / Labile BS: Lantus 40 given yesterday. As outpt, on insulin
   pump 100units per 24hr.  Increased dexis on TPN.
   - Lantus 60 with SS humalog
   - Add insulin to TPN
   # Emesis/ gastroparesis: S/p recent removal of lap-band.
   - Per surgery, continue NGT to suction until post-extubation
   - On TPN
   # Hypertension:
   - On home meds, continue to titrate
   # CHF: Per chart, although most recent echo in [**2171**] with preserved EF.
   Home diuretics have been held.
   - On lasix, goal I/O >-1L net
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2177-10-23**] 12:00 AM 62.5 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Insulin in TPN
   Lines:
   Arterial Line - [**2177-10-17**] 09:48 PM
   Multi Lumen - [**2177-10-18**] 02:18 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 20 minutes
   Patient is critically ill

2177-10-24 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2177-10-23**] 02:55 PM
   leni's
 INVASIVE VENTILATION - STOP [**2177-10-23**] 04:41 PM
 INVASIVE VENTILATION - START [**2177-10-23**] 04:44 PM
 FEVER - 101.2
F - [**2177-10-23**] 04:00 PM
   Extubated successfully yesterday afternoon
   Vanco Level 18.1 so dose was given
   LLE with asymmetric swelling, LENI done but result still pending
   Patient placed on CPAP overnight as she has history of OSA.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 669**] covering for HCP, if we call her out over the weekend he
   would like her to be placed under him as the attending.
   Allergies:
   Ampicillin
   Diarrhea;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; severe
   Tegaderm (Topical) (Transparent Dressing)
   Rash;
   Tincture Of Benzoin (Topical) (Benzoin)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2177-10-23**] 08:00 PM
   Levofloxacin - [**2177-10-24**] 12:00 AM
   Metronidazole - [**2177-10-24**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2177-10-23**] 08:47 AM
   Furosemide (Lasix) - [**2177-10-23**] 08:47 AM
   Heparin Sodium (Prophylaxis) - [**2177-10-24**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-24**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38
C (100.4
   HR: 86 (86 - 114) bpm
   BP: 131/53(78) {101/51(66) - 181/94(115)} mmHg
   RR: 15 (11 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.7 kg (admission): 115 kg
   Height: 67 Inch
    CVP: 8 (-1 - 16)mmHg
   Total In:
                                                                  2,966 mL
                                                                    873 mL
   PO:
   TF:
   IVF:
                                                                  1,166 mL
                                                                    319 mL
   Blood products:
   Total out:
                                                                  3,680 mL
                                                                  1,200 mL
   Urine:
                                                                  3,680 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -714 mL
                                                                   -327 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   Vt (Spontaneous): 386 (386 - 582) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 0 cmH2O
   FiO2: 40%
   SpO2: 94%
   ABG: 7.54/38/105/31/8
   Ve: 9.2 L/min
   PaO2 / FiO2: 210
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   255 K/uL
   10.3 g/dL
   174 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.8 mEq/L
   25 mg/dL
   99 mEq/L
   138 mEq/L
   31.8 %
   9.6 K/uL
        [image002.jpg]
                            [**2177-10-22**]  03:59 AM
                            [**2177-10-22**]  04:31 PM
                            [**2177-10-23**]  03:21 AM
                            [**2177-10-23**]  03:38 AM
                            [**2177-10-23**]  10:46 AM
                            [**2177-10-23**]  01:12 PM
                            [**2177-10-23**]  05:08 PM
                            [**2177-10-23**]  06:48 PM
                            [**2177-10-24**]  03:08 AM
                            [**2177-10-24**]  03:17 AM
   WBC
   8.8
   9.6
   Hct
   31.1
   31.8
   Plt
   214
   255
   Cr
   0.7
   0.8
   0.9
   0.8
   TCO2
   40
   39
   40
   37
   40
   34
   Glucose
   [**Telephone/Fax (3) 11471**]74
   Other labs: PT / PTT / INR:15.2/31.5/1.3, ALT / AST:17/25, Alk Phos / T
   Bili:59/0.5, Differential-Neuts:86.7 %, Lymph:9.7 %, Mono:3.1 %,
   Eos:0.4 %, Lactic Acid:1.1 mmol/L, Albumin:3.3 g/dL, Ca++:8.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 HYPERGLYCEMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 OLIGURIA/ANURIA
 HYPOGLYCEMIA
 HYPOXEMIA
   63yo F with DMII, HTN, OSA initially referred to the ED with whezzing,
   hypoxemia subsequently aspirated while on NIPPV requiring intubation
   for hypoxemia/hypercarbia. S/p removal of gastric band and s/p rigid
   bronchoscopy with removal of foreign body in Left lung. Persistently
   febrile.
   # Resp Failure / PNA/ Aspiration PNA: continues to improve on VANCO/
   levaquin /Flagyl to cover severe CAP (including atypicals), MRSA and
   aspiration.  Her leukocytosis has improved on this regimen (today was
   day 7). CXR today looks improved.  Patient tolerated SBP and was
   successfully extubated.
   --BIPAP as needed overnight
   --Continue broad covg for sever CAP & aspiration (d7)
Vanc, Levo,
   Flagyl
   # Persistent fevers: temperature improving.  LENIS of upper extremity
   done yesterday shows no DVT.  CT scan showed no SVC syndrome.  Fevers
   likely [**1-13**] known pneumonia.  CT abd negative for abscess
   -B/L UE US negative for DVT
   - cont to monitor
   # Bilateral upper extremity swelling: likely [**1-13**] fluid resuscitation,
   no signs of obstruction at this time
   # DMII:  cont Glargine, HISS
   - increased insulin in TPN today
   # Emesis/ gastroparesis: Presumably secondary to DMII. S/p recent
   removal of lap-band.
   --NPO, NGT to suction; will continue NGT to suction
   # Hypertension:  continue diovan 80mg po bid, hypertensive s/p
   extubation, will increase Hydral to 20mg QID
   # CHF: Documented Hx. Most recent echo in [**2171**] with preserved EF. Was
   being diuresed but CVP now 2 with Lasix, will hold lasix for now
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2177-10-23**] 11:59 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2177-10-17**] 09:48 PM
   Multi Lumen - [**2177-10-18**] 02:18 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2177-10-24 11:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Tm 101.2
   - LLE US for redness - negative for DVT
   - Extubated and doing well
   - Bipap overnight for OSA
   Allergies:
   Ampicillin
   Diarrhea;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; severe
   Tegaderm (Topical) (Transparent Dressing)
   Rash;
   Tincture Of Benzoin (Topical) (Benzoin)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2177-10-24**] 12:00 AM
   Metronidazole - [**2177-10-24**] 08:14 AM
   Vancomycin - [**2177-10-24**] 09:09 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2177-10-24**] 08:21 AM
   Heparin Sodium (Prophylaxis) - [**2177-10-24**] 08:21 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-24**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 87 (86 - 109) bpm
   BP: 155/64(93) {116/51(73) - 181/6,174(115)} mmHg
   RR: 15 (13 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.7 kg (admission): 115 kg
   Height: 67 Inch
   CVP: 13 (-1 - 16)mmHg
   Total In:
                                                                  2,966 mL
                                                                  1,475 mL
   PO:
   TF:
   IVF:
                                                                  1,166 mL
                                                                    670 mL
   Blood products:
   Total out:
                                                                  3,680 mL
                                                                  1,500 mL
   Urine:
                                                                  3,680 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -714 mL
                                                                    -25 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   Vt (Spontaneous): 386 (386 - 386) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 0 cmH2O
   FiO2: 40%
   SpO2: 96%
   ABG: 7.54/38/105/31/8
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Trace, LLL erythema improving
   Skin:  Not assessed
   Neurologic: Attentive, Lip smacking, Chorea?, Tardive dyskinesia?
   Labs / Radiology
   10.3 g/dL
   255 K/uL
   174 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.8 mEq/L
   25 mg/dL
   99 mEq/L
   138 mEq/L
   31.8 %
   9.6 K/uL
        [image002.jpg]
                            [**2177-10-22**]  03:59 AM
                            [**2177-10-22**]  04:31 PM
                            [**2177-10-23**]  03:21 AM
                            [**2177-10-23**]  03:38 AM
                            [**2177-10-23**]  10:46 AM
                            [**2177-10-23**]  01:12 PM
                            [**2177-10-23**]  05:08 PM
                            [**2177-10-23**]  06:48 PM
                            [**2177-10-24**]  03:08 AM
                            [**2177-10-24**]  03:17 AM
   WBC
   8.8
   9.6
   Hct
   31.1
   31.8
   Plt
   214
   255
   Cr
   0.7
   0.8
   0.9
   0.8
   TCO2
   40
   39
   40
   37
   40
   34
   Glucose
   [**Telephone/Fax (3) 11471**]74
   Other labs: PT / PTT / INR:15.2/31.5/1.3, ALT / AST:17/25, Alk Phos / T
   Bili:59/0.5, Differential-Neuts:86.7 %, Lymph:9.7 %, Mono:3.1 %,
   Eos:0.4 %, Lactic Acid:1.1 mmol/L, Albumin:3.3 g/dL, Ca++:8.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR - Poor quality.
   Microbiology: No new culture data.
   Assessment and Plan
   63F with h/o DM2, HTN, OSA, gastric banding, gastroparesis, significant
   aspiration s/p intubation, gastric band removal [**10-17**] now transferred to
   MICU green [**10-18**] for rigid bronch - successfully removed peanuts from L
   lung.
   # Resp Failure / PNA/ Aspiration PNA: Improving infiltrates on CXR.
   Extubated
   - Cont Vanc / levaquin / flagyl  - Day [**7-21**]
   - Alb/atrovent MDIs
   - Wean NC as tolerated
   # Persistent fevers / nl WBC count: Fever curve improving, could have
   been from pneumonitis. CXR improved. Pan-scan consistent with pneumonia
 no other sources identified.  Cultures negative.  No DVT.
   # Mental status / neurological findings: Oriented, but concerned that
   she is not at her baseline.  Perpetual motion concerning for tardive
   dyskinesia, but no identifiable meds.  Will talk to someone who knows
   patient to see if this is her baseline.
   # DMII / Labile BS: Lantus 40 given yesterday. As outpt, on insulin
   pump 100units per 24hr.  Increased dexis on TPN.
   - Lantus 60 with SS humalog
   - Add insulin to TPN
   # Emesis/ gastroparesis: S/p recent removal of lap-band.
   - Will discuss nutrition plan with surgery , possible speech swallow
   eval today
   - On TPN until then
   # Hypertension:
   - On home meds, continue to titrate
   # CHF: Per chart, although most recent echo in [**2171**] with preserved EF.
   Home diuretics have been held.
   - On lasix, goal I/O >-1L net
   # Lung Nodules and Hilar LAD: Will need follow up CT as outpatient.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2177-10-23**] 11:59 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2177-10-17**] 09:48 PM
   Multi Lumen - [**2177-10-18**] 02:18 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor if OK with surgery
   Total time spent: 30 minutes